US08648200B2
5-(Aminomethyl)-2-(difluoromethyl)-N-[4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl]pyridine-3-carboxamide
Add hydrochloric acid (10 mL, 40.0 mmol, 4 M in 1,4 dioxane) to tert-butyl N-[[6-(difluoromethyl)-5-[[4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl]carbamoyl]-3-pyridyl]methyl]carbamate (0.212 g, 0.403 mmol) and stir overnight. Dilute with water, and extract with Et2O. Adjust the pH to ˜8 with a saturated sodium bicarbonate aqueous solution. Extract with EtOAc (3×30 mL). Dry the organic extracts over sodium sulfate; filter; collect the filtrate; and concentrate the filtrate under reduced pressure. Purify by reverse phase flash chromatography (Analogix® 40 g @ 40 mL/min) eluting with a gradient of 2-55% ACN/water over 30 minutes. Concentrate the appropriate fractions under reduced pressure until all the ACN is removed and only water remains. Add a saturated sodium bicarbonate aqueous solution (30 mL), and extract with EtOAc (3×20 mL). Dry the organic extracts over sodium sulfate; filter; collect the filtrate; and concentrate the filtrate under reduced pressure to give the title compound as a light yellow solid (0.098 g, 57% yield). 1H NMR (400.43 MHz, d6-DMSO) δ 8.71-8.69 (m, 1H), 8.16 (s, 1H), 7.79-7.77 (m, 2H), 7.69-7.67 (m, 2H), 7.42-7.28 (m, 1H), 3.81 (s, 2H), 2.43 (s, 3H).

reactant | hydrochloric acid | 40.0 mmol, 4 M, 10 mL | Cl | ClH
reactant | tert-butyl N-[[6-(difluoromethyl)-5-[[4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl]carbamoyl]-3-pyridyl]methyl]carbamate | 0.403 mmol, 0.212 g | FC(C1=C(C=C(C=N1)CNC(OC(C)(C)C)=O)C(NC=1NC(=C(N1)C)C1=CC=C(C=C1)C(F)(F)F)=O)F | C24H24F5N5O3
solvent | water | O | H2O
product | 5-(Aminomethyl)-2-(difluoromethyl)-N-[4-methyl-5-[4-(trifluoromethyl)phenyl]-1H-imidazol-2-yl]pyridine-3-carboxamide | 0.098 g, 57% yield | NCC=1C=C(C(=NC1)C(F)F)C(=O)NC=1NC(=C(N1)C)C1=CC=C(C=C1)C(F)(F)F | C19H16F5N5O
